US05948788
A solution of morphine (14.27 g, 50.0 mmol), NaOH (2.04 g, 51.0 mmol), and benzylbromide (8.47 g, 49.5 mmol) in MeOH (150 ml) and water (50 ml) was stirred at rt. for 3.5 hr., evaporated in vacuo to remove MeOH. The residue was extracted with CH2Cl2 (120 ml). The extract was dried over anhydrous Na2SO4 and evaporated in vacuo to dryness to give a crude residue, which was chromatographed on silica gel (column: d=6.5 cm, l=10.5 cm; eluting solvent: 15% MeOH in CH2Cl2) to obtain 3-benzylmorphine (13.1 g, 70% yield). The Rf value in TLC and the IR spectrum of the product were comparable to those obtained from an authentic sample.

reactant | morphine | 50.0 mmol, 14.27 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | NaOH | 51.0 mmol, 2.04 g | [OH-].[Na+]
reactant | benzylbromide | 49.5 mmol, 8.47 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | MeOH | 150 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-benzylmorphine | 13.1 g, 70% yield | C(C1=CC=CC=C1)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C24H27NO3
